US08754226B2
To a 0° C. solution of tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxylate (1.76 g, 7.74 mmol) and (S)-4-amino-2-(benzyloxycarbonylamino)butanoic acid (1.95 g, 7.74 mmol) in THF (20 mL) and water (3 mL) was added NaCNBH3 (0.48 g, 7.7 mmol). This mixture was stirred at 60° C. for 2 days. The reaction was then evaporated to a solid to give the crude (2S)-2-(benzyloxycarbonylamino)-4-(1-(tert-butoxycarbonyl)-3,3-dimethylpiperidin-4-ylamino)butanoic acid. This material was taken on directly to the next step.

reactant | tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxylate | 7.74 mmol, 1.76 g | CC1(CN(CCC1=O)C(=O)OC(C)(C)C)C | C12H21NO3
reactant | (S)-4-amino-2-(benzyloxycarbonylamino)butanoic acid | 7.74 mmol, 1.95 g | NCC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C12H16N2O4
reactant | NaCNBH3 | 7.7 mmol, 0.48 g | [BH3-]C#N.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (2S)-2-(benzyloxycarbonylamino)-4-(1-(tert-butoxycarbonyl)-3,3-dimethylpiperidin-4-ylamino)butanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CCNC1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C24H37N3O6
